US08877741B2
2-Bromo-5-(3,3,3-trifluoro-propoxy)-pyridine
1.00 g (5.75 mmol) 2-bromo-5-hydroxypyridine, 0.66 g (5.75 mmol) 3,3,3-trifluoro-1-propanol and 1.51 g (5.75 mmol) triphenylphosphine are added to 50 mL THF. Then 1.32 g (5.75 mmol) di-tert-butyl azodicarboxylate are added and the reaction mixture is stirred at 60° C. for 3 h. The solvent is removed in vacuo and the crude product is purified by column chromatography (silica gel, PE/EtOAc).

reactant | 2-bromo-5-hydroxypyridine | 5.75 mmol, 1.00 g | BrC1=NC=C(C=C1)O | C5H4BrNO
reactant | 3,3,3-trifluoro-1-propanol | 5.75 mmol, 0.66 g | FC(CCO)(F)F | C3H5F3O
reactant | triphenylphosphine | 5.75 mmol, 1.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 5.75 mmol, 1.32 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-Bromo-5-(3,3,3-trifluoro-propoxy)-pyridine | BrC1=NC=C(C=C1)OCCC(F)(F)F | C8H7BrF3NO
